US07629340B2
4-Bromo-N-cyclopropyl-benzamide
4-Bromo-benzoic acid (2.5116 g, 12.5 mmol) and HATU (5.2213 g, 13.7 mmol) were dissolved in DMF (40 mL). DIEA (4.572 mL, 26.2 mmol) was added, and the mixture was allowed to stir at ambient temperature for 15 minutes. Then cyclopropylamine (0.866 mL, 12.5 mmol) was added, and the reaction was stirred at ambient temperature overnight. The solvent was removed, and the crude was purified via silica gel chromatography to give the desired product.

reactant | 4-Bromo-benzoic acid | 12.5 mmol, 2.5116 g | BrC1=CC=C(C(=O)O)C=C1 | C7H5BrO2
reactant | HATU | 13.7 mmol, 5.2213 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIEA | 26.2 mmol, 4.572 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | cyclopropylamine | 12.5 mmol, 0.866 mL | C1(CC1)N | C3H7N
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
product | 4-Bromo-N-cyclopropyl-benzamide | BrC1=CC=C(C(=O)NC2CC2)C=C1 | C10H10BrNO
